US06251925B1
Methyl (R)-2-(3,5-dichlorophenyl)-2-hydroxyethanoate
A solution of (R)-2-(3,5-dichlorophenyl)-2-hydroxyethanoic acid (19.10 g) in methanol (200 mL) containing concentrated sulfuric acid (1 mL) was stirred at reflux under nitrogen for 16.5 h. The solution was then concentrated under vacuum, and the resulting oil was dissolved in ethyl acetate (200 mL). This solution was washed with saturated aqueous sodium bicarbonate solution, followed by saturated aqueous sodium chloride solution (10 mL). After drying (magnesium sulfate), the ethyl acetate was removed, and the yellow oil was recrystallized from hexane (70 mL) to afford the title compound as a colorless crystalline solid (10.68 g). The mother liquor afforded additional product (3.61 g) upon concentration.

reactant | (R)-2-(3,5-dichlorophenyl)-2-hydroxyethanoic acid | 19.10 g | ClC=1C=C(C=C(C1)Cl)[C@H](C(=O)O)O | C8H6Cl2O3
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 200 mL | CO | CH4O
product | Methyl (R)-2-(3,5-dichlorophenyl)-2-hydroxyethanoate | 10.68 g | ClC=1C=C(C=C(C1)Cl)[C@H](C(=O)OC)O | C9H8Cl2O3
